US07034056B2
To a solution of 2-(4iodophenyl)-4oxobutyronitrile (2.03 g, 7.1 mmol) in ClCH2CH2Cl (50 mL) was added dimethylamine (14.3 mL, 2M in THF, 28.6 mmol, 4 eq) and the mixture was left stirring at room temperature for 1 h. Na(OAc)3BH (6.04 g, 28.6 mmol, 4 eq) was added and the mixture was stirred at room temperature for 16 h. The reaction was quenched by adding aqueous saturated NaHCO3 (50 mL) and the mixture was extracted with EtOAc (50 mL×3). The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated. The crude product was purified by silica gel chromatography (50% EtOAc/hexanes) to give 4dimethylamino-2-(4iodophenyl)-butyronitrile as a dark brown solid, 2.09 g (94%). 1H NMR (300 MHz, CDCl3): δ 7.83 (d, 2H), 7.22 (d, 2H), 4.10 (t, 1H), 2.56 (m, 1H), 2.41 (m, 1H), 2.34 (s, 6H), 2.20 (m, 1H), 2.05 (m, 1H).

reactant | 2-(4iodophenyl)-4oxobutyronitrile | 7.1 mmol, 2.03 g | IC1=CC=C(C=C1)C(C#N)CC=O | C10H8INO
reactant | dimethylamine | 28.6 mmol, 2M, 14.3 mL, 4 eq | CNC | C2H7N
reactant | Na(OAc)3BH | 28.6 mmol, 6.04 g, 4 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | ClCH2CH2Cl | 50 mL | C(CCl)Cl | C2H4Cl2
product | 4dimethylamino-2-(4iodophenyl)-butyronitrile | CN(CCC(C#N)C1=CC=C(C=C1)I)C | C12H15IN2
